US05246932
A solution of 7-amino-5-[(4-benzyloxyphenyl)methyl]amino-2-(2-furyl)-[1,2,4]triazolo[1,5-a][1,3,5]triazine (2.37 g) in ethyl acetate (150 ml) and methanol (150 ml) was treated with 10% palladium on carbon (3.0 g) and hydrogenated at atmospheric pressure for 2.5 hours. The catalyst was filtered through diatomaceous earth and the liquors evaporated. The residue was purified by chromatography on silica (100 g) eluting with dichloromethane containing methanol 3-30% v/v, and gave 7-amino-2-(2-furyl)-5-[(4-hydroxyphenyl)methyl]amino-[1,2,4]-triazolo[1,5-a][1,3,5]triazine, m.p. 268-270; NMR: 4.39 (d, 2H, CH2N), 6.64 (d of d, 1H, furyl-4H), 6.68 and 7.13 (A2B2 pattern, 4H, phenyl-H), 7.03 (d, 1H, furyl-3H), 7.8 (t, 1H, NH), 7.84 (d, 1H, furyl-5H), 8.13 (br s, 2H, NH2) and 9.19 (s, 1H, OH); m/e 324 (M+H)+.

reactant | 7-amino-5-[(4-benzyloxyphenyl)methyl]amino-2-(2-furyl)-[1,2,4]triazolo[1,5-a][1,3,5]triazine | 2.37 g | NC1=NC(=NC=2N1N=C(N2)C=2OC=CC2)NCC2=CC=C(C=C2)OCC2=CC=CC=C2 | C22H19N7O2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium on carbon | 3.0 g | [Pd] | Pd
product | 7-amino-2-(2-furyl)-5-[(4-hydroxyphenyl)methyl]amino-[1,2,4]-triazolo[1,5-a][1,3,5]triazine | NC1=NC(=NC=2N1N=C(N2)C=2OC=CC2)NCC2=CC=C(C=C2)O | C15H13N7O2
